US05736548
A mixture of 2-ethoxy-4-(diethylamino)benzaldehyde (7.87 g, 35.56 mmol), 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (3.95 g, 17.78 mmol), p-toluenesulfonic acid monohydrate (0.05 g), 10% palladium on carbon (0.11 g) and benzene (150 ml) was refluxed overnight with the azeotropic removal of water. The catalyst was removed by filtration, and the filtrate was concentrated in vacuo. The residue was combined with that from a similar experimental run, and dissolved in CH2Cl2, and loaded onto a silica gel column. Elution of the column with ether/hexane (60/40) afforded a green foam which was titurated with refluxing hexane, and cooled and the product, as pale yellow needles, was collected by filtration to afford 1.19 g (8%) of 1-cyclopentyl-3-ethyl-6-[2-ethoxy-4-(diethylamino)phenyl]pyrazolo[3,4-d]pyrimidin-4-one, m.p. 138°-139° C.

reactant | 2-ethoxy-4-(diethylamino)benzaldehyde | 35.56 mmol, 7.87 g | C(C)OC1=C(C=O)C=CC(=C1)N(CC)CC | C13H19NO2
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 17.78 mmol, 3.95 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | benzene | 150 ml | C1=CC=CC=C1 | C6H6
reactant | water | O | H2O
catalyst | palladium on carbon | 0.11 g | [Pd] | Pd
catalyst | p-toluenesulfonic acid monohydrate | 0.05 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | hexane | CCCCCC | C6H14
product | 1-cyclopentyl-3-ethyl-6-[2-ethoxy-4-(diethylamino)phenyl]pyrazolo[3,4-d]pyrimidin-4-one | 1.19 g, 8% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=C(C=C(C=C2)N(CC)CC)OCC)CC | C24H33N5O2
